US08304557B2
N-[3-({2-[(cyclopropylsulfonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-methylpyridine-2-carboxamide
To N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide (150 mg, 0.417 mmol), tetrahydrofuran (10 mL) and aqueous sodium hydrogen carbonate solution (5 mL) was added cyclopropanesulfonyl chloride (348 μL, 2.48 mmol), and the mixture was stirred at room temperature for 61 hr. The reaction mixture was concentrated under reduced pressure, diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (0%→70% ethyl acetate-hexane) to give the title compound (43.7 mg, 23%) as a pale-yellow solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide | 0.417 mmol, 150 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)C1 | C20H17N5O2
reactant | sodium hydrogen carbonate | 5 mL | C(O)([O-])=O.[Na+]
reactant | cyclopropanesulfonyl chloride | 2.48 mmol, 348 μL | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(cyclopropylsulfonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-methylpyridine-2-carboxamide | 43.7 mg, 23% | C1(CC1)S(=O)(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)C1 | C23H21N5O4S
